US05104862
(4S)-3,3-Diethyl-1-[(R)-α-n-propyl(4-methyl)-benzylaminocarbonyl]-4-[4-(phenyl(ethoxyphosphinyl)methyl)phenoxy]-azetidin-2-one.
A mixture of (4S)-3,3-diethyl-1-[(R)-α-n-propyl-(4-methyl)-benzylaminocarbonyl]-4-[4-(bromomethyl)phenoxy]-azetidin-2-one (203 mg, 0.40 mmol) and diethyl phenylphosphonite (155 μL, 0.81 mmol) was heated for 1 hour at 80° C. The desired product was obtained pure after flash chromatography on silica gel using initially 33% ethyl acetate in hexane and subsequently 50% ethyl acetate in hexane as the mobile phase; yield 223 mg (93%); FAB MS m/z 591 (M+1).

reactant | (4S)-3,3-diethyl-1-[(R)-α-n-propyl-(4-methyl)-benzylaminocarbonyl]-4-[4-(bromomethyl)phenoxy]-azetidin-2-one | 0.40 mmol, 203 mg | C(C)C1(C(N([C@H]1OC1=CC=C(C=C1)CBr)C(=O)N[C@@H](C1=CC=C(C=C1)C)CCC)=O)CC | C26H33BrN2O3
reactant | diethyl phenylphosphonite | 0.81 mmol, 155 μL | C1(=CC=CC=C1)P(OCC)OCC | C10H15O2P
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hexane | CCCCCC | C6H14
product | (4S)-3,3-Diethyl-1-[(R)-α-n-propyl(4-methyl)-benzylaminocarbonyl]-4-[4-(phenyl(ethoxyphosphinyl)methyl)phenoxy]-azetidin-2-one | C(C)C1(C(N([C@H]1OC1=CC=C(C=C1)C(P(=O)OCC)C1=CC=CC=C1)C(=O)N[C@@H](C1=CC=C(C=C1)C)CCC)=O)CC | C34H43N2O5P
